US09029531B2
Step A: N-(5-((1S,3S)-3-(5-amino-1,3,4-thiadiazol-2-yl)cyclohexyl)-1,3,4-thiadiazol-2-yl)-2-(pyridin-2-yl)acetamide
A mixture of methyl 2-(pyridin-2-yl)acetate (107.0 mg, 0.71 mmol), 5,5′-((1S,3S)-cyclohexane-1,3-diyl)bis(1,3,4-thiadiazol-2-amine) (200 mg, 0.71 mmol), cesium carbonate (762.7 mg, 1.42 mmol) in DMF (6 mL) was heated to 130° C. under nitrogen atmosphere and microwave for 45 min. The mixture was evaporated in vacuum to dryness. The residue was purified by a standard method to afford desired compound.

reactant | methyl 2-(pyridin-2-yl)acetate | 0.71 mmol, 107.0 mg | N1=C(C=CC=C1)CC(=O)OC | C8H9NO2
reactant | 5,5′-((1S,3S)-cyclohexane-1,3-diyl)bis(1,3,4-thiadiazol-2-amine) | 0.71 mmol, 200 mg | [C@H]1(C[C@H](CCC1)C1=NN=C(S1)N)C1=NN=C(S1)N | C10H14N6S2
reactant | cesium carbonate | 1.42 mmol, 762.7 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | N-(5-((1S,3S)-3-(5-amino-1,3,4-thiadiazol-2-yl)cyclohexyl)-1,3,4-thiadiazol-2-yl)-2-(pyridin-2-yl)acetamide | NC1=NN=C(S1)[C@@H]1C[C@H](CCC1)C1=NN=C(S1)NC(CC1=NC=CC=C1)=O | C17H19N7OS2
